US06013658
N-(3-Dimethylaminopropyl)-N'-ethylcarbodiimide hydrochloride (0.26 g, 1.38 mmol) and 1-hydroxybenzotriazole monohydrate (0.21 g, 1.38 mmol) were added to a solution of N-tertbutoxycarbonyl-4-amino-4-methylpent-2-enoic acid (0.32 g, 1.38 mmol) in N,N-dimethylformamide (5 ml). After 30 min at 20° C. a mixture of (2R)-2-amino-N-methyl-N-[(1R)-1-(3-methyl-[1,2,4]oxadiazol-5-yl)-2-(2-naphthyl)ethyl]-3-(2-naphthyl)propionamide, trifluoroacetic acid (0.57 g, 0.99 mmol) and triethylamine (0.10 g, 0.99 mmol) in N,N-dimethylformamide (6 ml) were added. After 18 h at 20° C. the reaction mixture was poured on water (75 ml) and extracted several times with ethyl acetate (total 30 ml). The organic phases were collected and washed with aqueous citric acid (10%, 15 ml), a saturated solution of sodium hydrogencarbonate (3×15 ml) and water (3×15 ml). After drying (magnesium sulfate) the solution was concentrated in vacuo to give 0.68 g of crude {1,1-dimethyl-3-[(1R)-1-{N-methyl-N-{(1R)-1-(3-methyl-[1,2,4]oxadiazol-5-yl)-2-(2-naphthyl)ethyl}carbamoyl}-2-(2-naphthyl)ethylcarbamoyl]allyl}carbamic acid tertbutyl ester which was used for the next step without further purification.

reactant | N-(3-Dimethylaminopropyl)-N'-ethylcarbodiimide hydrochloride | 1.38 mmol, 0.26 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole monohydrate | 1.38 mmol, 0.21 g | O.ON1N=NC2=C1C=CC=C2
reactant | N-tertbutoxycarbonyl-4-amino-4-methylpent-2-enoic acid | 1.38 mmol, 0.32 g | C(C)(C)(C)OC(=O)NC(C=CC(=O)O)(C)C | C11H19NO4
reactant | (2R)-2-amino-N-methyl-N-[(1R)-1-(3-methyl-[1,2,4]oxadiazol-5-yl)-2-(2-naphthyl)ethyl]-3-(2-naphthyl)propionamide | N[C@@H](C(=O)N([C@H](CC1=CC2=CC=CC=C2C=C1)C1=NC(=NO1)C)C)CC1=CC2=CC=CC=C2C=C1 | C29H28N4O2
reactant | trifluoroacetic acid | 0.99 mmol, 0.57 g | FC(C(=O)O)(F)F | C2HF3O2
reactant | triethylamine | 0.99 mmol, 0.10 g | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
product | {1,1-dimethyl-3-[(1R)-1-{N-methyl-N-{(1R)-1-(3-methyl-[1,2,4]oxadiazol-5-yl)-2-(2-naphthyl)ethyl}carbamoyl}-2-(2-naphthyl)ethylcarbamoyl]allyl}carbamic acid tertbutyl ester | 0.68 g | C(C)(C)(C)OC(NC(C=CC(N[C@H](CC1=CC2=CC=CC=C2C=C1)C(N([C@H](CC1=CC2=CC=CC=C2C=C1)C1=NC(=NO1)C)C)=O)=O)(C)C)=O | C40H45N5O5
